US07838087B2
30 ml of a THF solution of 15.0 g (68.5 mmol) of 3-fluoro-4-ethoxybromobenzene was dropped under stirring to 1.8 g (75.4 mmol) of dried turnings magnesium at 40 to 60° C. Then, 100 ml of a THF solution of 22.3 g (89.1 mmol) of (4-(4-propylcyclohexyl)cyclohexyl)acetoaldehyde was dropped to the solution and stirred for 2 hours. The reaction mixture was poured into 100 ml of an aqueous saturated ammonium chloride solution and extracted with 200 ml of toluene. The organic layer was washed with 100 ml of water and then with 100 ml of aqueous saturated sodium chloride solution successively and, after drying over anhydrous magnesium sulfate, concentrated under a reduced pressure to obtain 25.9 g of crude 1-hydroxy-1-(3-fluoro-4-ethoxyphenyl)-2-(4-(4-propylcyclohexyl)cyclohexyl)ethane.

reactant | 3-fluoro-4-ethoxybromobenzene | 68.5 mmol, 15.0 g | FC=1C=C(C=CC1OCC)Br | C8H8BrFO
reactant | magnesium | [Mg] | Mg
reactant | (4-(4-propylcyclohexyl)cyclohexyl)acetoaldehyde | 89.1 mmol, 22.3 g | C(CC)C1CCC(CC1)C1CCC(CC1)CC=O | C17H30O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-hydroxy-1-(3-fluoro-4-ethoxyphenyl)-2-(4-(4-propylcyclohexyl)cyclohexyl)ethane | 25.9 g | OC(CC1CCC(CC1)C1CCC(CC1)CCC)C1=CC(=C(C=C1)OCC)F | C25H39FO2
